US09238639B2
C) 5-Chloro-2-fluoro-1-methoxy-3-(methylsulfinyl)benzene
To a mixture of 5-chloro-2-fluoro-1-methoxy-3-(methylsulfanyl)benzene (576.1 mg), MeOH (20 mL) and water (4.0 mL) was added NaIO4 (894 mg) at 0° C. The mixture was stirred at room temperature for 1 day. The mixture was concentrated. The residue was diluted with water. The precipitate was filtered off, and the filtrate was extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (501 mg).

reactant | 5-chloro-2-fluoro-1-methoxy-3-(methylsulfanyl)benzene | 576.1 mg | ClC=1C=C(C(=C(C1)OC)F)SC | C8H8ClFOS
reactant | MeOH | 20 mL | CO | CH4O
solvent | water | 4.0 mL | O | H2O
product | 5-Chloro-2-fluoro-1-methoxy-3-(methylsulfinyl)benzene | 501 mg | ClC=1C=C(C(=C(C1)OC)F)S(=O)C | C8H8ClFO2S
